US07279467B2
1 g (3.61 mmol) of 2-cyclohexyl-4,7-dimethoxy-1,3-benzothiazole is put into suspension in an acetonitrile/water mixture (3/1) at 0° C. then 4.36 g (7.96 mmol; 2.2 eq.) of cerium (IV) and ammonium nitrate are added to the suspension. The reaction mixture is maintained for 1.5 hours under stirring at ambient temperature, then 0.78 g (yield=88%) of 2-cyclohexyl-1,3-benzothiazole-4,7-dione is obtained after filtration, washing with cold water and drying under reduced pressure.

reactant | 2-cyclohexyl-4,7-dimethoxy-1,3-benzothiazole | 3.61 mmol, 1 g | C1(CCCCC1)C=1SC2=C(N1)C(=CC=C2OC)OC | C15H19NO2S
reactant | cerium (IV) | 7.96 mmol, 4.36 g, 2.2 eq. | [Ce+4]
reactant | ammonium nitrate | [N+](=O)([O-])[O-].[NH4+]
solvent | acetonitrile water | C(C)#N.O
product | 2-cyclohexyl-1,3-benzothiazole-4,7-dione | 0.78 g, yield=88% | C1(CCCCC1)C=1SC2=C(N1)C(C=CC2=O)=O | C13H13NO2S
